US05866611
A solution of N,N-diethyl-3-(3-benzyloxyphenoxy)propylamine (0.7 g) in ethanol was treated with ethereal hydrogen chloride solution and the mixture hydrogenated in the presence of Pd/C (0.25 g, 5% w/w) for 2 hours. The catalyst was removed by filtration and the filtrate evaporated. The residue was crystallised from a mixture of ethanol and ether to give N,N-diethyl-3-(3-hydroxyphenoxy)propylamine (0.4 g), m/z 223.

reactant | N,N-diethyl-3-(3-benzyloxyphenoxy)propylamine | 0.7 g | C(C)N(CC)CCCOC1=CC(=CC=C1)OCC1=CC=CC=C1 | C20H27NO2
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | 0.25 g | [Pd] | Pd
product | N,N-diethyl-3-(3-hydroxyphenoxy)propylamine | 0.4 g | C(C)N(CC)CCCOC1=CC(=CC=C1)O | C13H21NO2
